US07053212B2
Step A: 2,4,6-Trichloro-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzamide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.050 g, 0.13 mmol) in 0.5 mL methylene chloride was added triethylamine (0.035 mL, 0.25 mmol), 2,4,6-trichlorobenzoyl chloride (0.061 g, 0.25 mmol), and catalytic N,N-dimethylaminopyridine (DMAP). The reaction mixture was stirred overnight at room temperature. The reaction was concentrated to give the title compound of Step A which was used in Step B without further purification. MS 605.4 (M+1)+

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.13 mmol, 0.050 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 0.25 mmol, 0.035 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trichlorobenzoyl chloride | 0.25 mmol, 0.061 g | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2,4,6-Trichloro-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzamide | ClC1=C(C(=O)N(CC2=CC(=CC=C2)OC2OCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C(=CC(=C1)Cl)Cl | C31H33Cl3N2O4
